US05036067
Step 1: 2-Acetyl-8-bromophenoxathiin
To a suspension of aluminum chloride (1.2 g, 9 mmol) in 1,2-dichloro ethane (20 mL) at room temperature there was added acetyl chloride (0.57 mL, 628 mg, 8 mmol) and the mixture stirred for 10 minutes. There was added 2-bromophenoxathiin (J.A.C.S. 1936, 58, 717) (1.8 g, 6.4 mmol) and the mixture was stirred for 18 hours. After quenching with ice water, the organic portion was collected and the aqueous portion extracted with methylene chloride. The combined organic fractions, after washing 3 times with water and drying over MgSO4, were evaporated to a residue which on crystallization from methanol, followed by column chromatography on silica gel, eluting with a 1:5 mixture of ethyl acetate-hexane, gave the title product as a white solid (247 mg), m.p.: 143°-145° C.

reactant | aluminum chloride | 9 mmol, 1.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 8 mmol, 0.57 mL, 628 mg | C(C)(=O)Cl | C2H3ClO
reactant | 2-bromophenoxathiin | 6.4 mmol, 1.8 g | BrC1=CC=2SC3=CC=CC=C3OC2C=C1 | C12H7BrOS
solvent | 1,2-dichloro ethane | 20 mL | ClCCCl | C2H4Cl2
product | 2-Acetyl-8-bromophenoxathiin | 247 mg | C(C)(=O)C1=CC=2SC3=CC(=CC=C3OC2C=C1)Br | C14H9BrO2S
